US05236952
A suspension of 267.3 mg of 4-(2-amino-4-thiazolyl)-2-methoxy-6-nitrophenol in 10 ml of dry methylene chloride is treated at -20° with 1.25 g of boron tribromide. After the addition the mixture is stirred at -20° for a further 1 hour and at room temperature without cooling for 18 hours. The reaction mixture is then evaporated, the residue is treated cautiously with water and stirred at 50° for 30 minutes. After cooling to room temperature the mixture is suction filtered and the crude product is removed by filtration and washed with a small amount of water. There is obtained 5-(2-amino-4-thiazolyl)-3-nitropyrocatechol hydrobromide of m.p. 244°-246° (from methanol).

reactant | 4-(2-amino-4-thiazolyl)-2-methoxy-6-nitrophenol | 267.3 mg | NC=1SC=C(N1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C10H9N3O4S
reactant | boron tribromide | 1.25 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-amino-4-thiazolyl)-3-nitropyrocatechol hydrobromide | Br.NC=1SC=C(N1)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | InChI=1S/C9H7N3O4S.BrH/c10-9-11-5(3-17-9)4-1-6(12(15)16)8(14)7(13)2-4;/h1-3,13-14H,(H2,10,11);1H
